US08278457B2
Step 2. Synthesis of trans-4-[(6-bromopyridin-3-yl)oxy]tetrahydrofuran-3-yl methanesulfonate
The title compound of Step 2 was prepared according to the general procedure for the synthesis of trans-2-(4-bromophenoxy)cyclopentyl methanesulfonate in Example 5, except that trans-4-[(6-bromopyridin-3-yl)oxy]tetrahydrofuran-3-ol was used instead of trans-2-(4-bromophenoxy)cyclopentanol. The product was obtained as a solid. Yield: 5.95 g, 17.6 mmol, 87%. 1H NMR (400 MHz, CDCl3) δ 3.07 (s, 3H), 3.94 (br dd, J=10.5, 1.8 Hz, 1H), 4.00 (m, 1H), 4.11 (dd, J=11.1, 4.1 Hz, 1H), 4.18 (dd, J=10.6, 4.5 Hz, 1H), 4.97 (br d, J=4.4 Hz, 1H), 5.13 (br d, J=3.8 Hz, 1H), 7.19 (dd, J=8.7, 3.2 Hz, 1H), 7.35 (dd, J=8.7, 0.5 Hz, 1H), 8.04 (dd, J=3.2, 0.5 Hz, 1H).

reactant | trans-2-(4-bromophenoxy)cyclopentyl methanesulfonate | CS(=O)(=O)O[C@H]1[C@@H](CCC1)OC1=CC=C(C=C1)Br | C12H15BrO4S
reactant | trans-4-[(6-bromopyridin-3-yl)oxy]tetrahydrofuran-3-ol | BrC1=CC=C(C=N1)O[C@H]1[C@@H](COC1)O | C9H10BrNO3
product | trans-4-[(6-bromopyridin-3-yl)oxy]tetrahydrofuran-3-yl methanesulfonate | CS(=O)(=O)O[C@@H]1COC[C@H]1OC=1C=NC(=CC1)Br | C10H12BrNO5S
